US08604211B2
Preparation of 5-pyridin-3-yl-[1,3,4]thiadiazol-2-ylamine
5-pyridin-3-yl-[1,3,4]thiadiazol-2-ylamine was prepared as described by Turner et al. J. Med. Chem. 1988, 31, 898. Nicotinic acid (30 g, 0.24 mol) was added in portions to polyphosphoric acid (60 mL) under mechanical stirring. After stirring for 5 minutes, thiosemicarbazide (22.2 g, 0.24 mol) was added in portions. The reaction mixture was heated to 90° C. for 6 hours, cooled to room temperature over 14 hours, and re-heated to 40° C. to melt the solid yellow cake. Water was added (50 mL) dropwise via Pasteur pipette while stirring. The solution was cooled to 0° C., NH4OH (29% solution, approx 250 mL) was added dropwise over 2.5 hours to bring the pH to 14. The solids were collected by filtration, washed with water (150 mL) and dried in vacuo at 65° C. for 16 hours to afford the title compound as a beige-colored solid (21.7 g, 50%): mp 201-211° C.; IR (KBr thin film) 1508 cm−1; 1H NMR (300 MHz, DMSO-d6) δ 8.95 (d, J=2.1 Hz, 1H), 8.62 (dd, J=4.5, 0.9 Hz, 1H), 8.14 (dt, J=8.4, 1.5 Hz, 1H), 7.51 (dd, J=8.1, 1.5 Hz, 1H); ESIMS m/z 179 ([M+H]+).

reactant | Nicotinic acid | 0.24 mol, 30 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | thiosemicarbazide | 0.24 mol, 22.2 g | NNC(=S)N | CH5N3S
reactant | NH4OH | approx 250 mL | [NH4+].[OH-]
solvent | Water | O | H2O
product | 5-pyridin-3-yl-[1,3,4]thiadiazol-2-ylamine | 21.7 g, 50% | N1=CC(=CC=C1)C1=NN=C(S1)N | C7H6N4S
